US07625909B2
Step 1. Synthesis of Ethyl(3S)-3-methyl-L-prolinate
The title compound was prepared from (3S)-3-methyl-L-proline, using the methods used to prepare ethyl(3S)-3-hydroxy-L-prolinate hydrochloride. 1H NMR (400 MHz, DMSO-D6) δ ppm 1.1 (d, J=6.8 Hz, 3H) 1.2 (t, J=6.8 Hz, 3H), 1.6 (m, 1H), 2.1 (m, 1H), 2.3 (m, 1H), 3.2 (m, 2H), 3.8 (m, 1H), 4.2 (m, 2H), 4.7 (m, 1H), 9.0(s, 1H), 10.4 (s, 1H).

reactant | (3S)-3-methyl-L-proline | C[C@@H]1[C@H](NCC1)C(=O)O | C6H11NO2
reactant | ethyl(3S)-3-hydroxy-L-prolinate hydrochloride | Cl.O[C@@H]1[C@H](NCC1)C(=O)OCC
product | Ethyl(3S)-3-methyl-L-prolinate | C[C@@H]1[C@H](NCC1)C(=O)OCC | C8H15NO2
